### PR TITLE
feat: logical equivalence for modal logic

### PR DESCRIPTION
**Pull request by fmontesi**
Adds logical equivalence for modal logic, proving that it is a `Congruence` (for any modal logic, regardless of the class of models considered) and a `LogicalEquivalence` (for logic K, i.e., when considering the class of all models).

The PR also renames `Proposition.neg` to `Proposition.not` and adds a useful lemma on `Proposition.iff`.

Depends on #528.

### CODE REVIEW

File: Cslib/Logics/Modal/Basic.lean
Comment (thomaskwaring) [inline Cslib/Logics/Modal/Basic.lean:179]: could this proof be simplified using `Satisfies.iff_iff_iff`?

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 1]
```diff
@@ -0,0 +1,143 @@
...
+    Judgement World Atom where
+  m := c.m
+  w := c.w
+  φ := φ
+
+instance judgementalContext :
+    HasHContext (Judgement World Atom) (Proposition Atom) :=
+  ⟨Satisfies.Context World Atom, Satisfies.Context.fill⟩
+
+/-- Logical equivalence for Modal Logic K. That is, no assumptions on models are made. -/
```
Comment (thomaskwaring) [inline Cslib/Logics/Modal/LogicalEquivalence.lean:124]: could you give a version of the result `eqvFillValid` for general equivalences `φ₁ ≡[S] φ₂`? if i am following correctly that would require restricting the context `c` to have `c.m ∈ S`.

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 2]
```diff
@@ -0,0 +1,143 @@
...
+  ∀ m ∈ S, ∀ w : World, ⇓Modal[m,w ⊨ φ₁ ↔ φ₂]
+
+@[inherit_doc]
+scoped notation φ₁ " ≡[" S "] " φ₂ => Proposition.Equiv S φ₁ φ₂
+
+@[inherit_doc]
+scoped notation φ₁ " ≡ " φ₂ => Proposition.Equiv Set.univ φ₁ φ₂
+
+@[scoped grind =]
+theorem Proposition.equiv_def (S : Set (Model World Atom)) (φ₁ φ₂ : Proposition Atom) :
```
Comment (thomaskwaring) [inline Cslib/Logics/Modal/LogicalEquivalence.lean:39]: maybe it would be good to have a version of this saying `(φ₁ ≡[S] φ₂) ↔ (∀ m ∈ S, ∀ w : World, ⇓Modal[m,w ⊨ φ₁] ↔ ⇓Modal[m,w ⊨ φ₂])`, it's immediate from `Satisfies.iff_iff_iff` but seems conceptually meaningful to me.

**Review by thomaskwaring — COMMENTED** [review]
some minor comments but lgtm on the whole!

File: Cslib/Logics/Modal/LogicalEquivalence.lean (hunk 1 above)
Comment (fmontesi) [reply Cslib/Logics/Modal/LogicalEquivalence.lean:124]: I'm working on that in a follow-up PR, since it led to generalising `LogicalEquivalence` a bit and I wanna get it right.

**Comment by fmontesi** [comment]
Thanks, @thomaskwaring. All done!

File: Cslib/Logics/Modal/Basic.lean [hunk 3]
```diff
@@ -127,6 +127,16 @@ This result proves that the definition is correct.
...
 
+/-- Characterisation of the `↔` connective.
+
+Bi-implication is defined in terms of the more primitive connectives given in `Proposition`.
+This result proves that the definition is correct. -/
+@[scoped grind =]
+theorem Satisfies.iff_iff_iff {m : Model World Atom} :
+    ⇓Modal[m,w ⊨ φ₁ ↔ φ₂] ↔ (⇓Modal[m,w ⊨ φ₁] ↔ ⇓Modal[m,w ⊨ φ₂]) := by
+  simp only [Proposition.iff]
+  grind [=_ derivation_def]
```
Comment (chenson2018) [inline Cslib/Logics/Modal/Basic.lean]: Out of scope for this PR, but `derivation_def` is written backwards.

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 4]
```diff
@@ -0,0 +1,149 @@
...
+  refl := by grind
+  symm := by
+    intro φ₁ φ₂ h m hₘ w
+    specialize h m hₘ w
+    grind
+  trans := by
+    intro φ₁ φ₂ φ₃ h₁ h₂ m hₘ w
+    specialize h₁ m hₘ w
+    specialize h₂ m hₘ w
+    grind
```
Comment (chenson2018) [inline Cslib/Logics/Modal/LogicalEquivalence.lean]:
```suggestion
instance {World Atom} (S : Set (Model World Atom)) : IsEquiv (Proposition Atom) (Proposition.Equiv S) := by
  rw [← equivalence_iff_isEquiv]
  grind [Equivalence]
```

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 5]
```diff
@@ -0,0 +1,149 @@
...
+    (φ₁.valid S ↔ φ₂.valid S) := by
+  apply Iff.intro <;> intro h'
+  · simp_all only [valid]
+    intro m hin w
+    specialize h m hin w
+    grind
+  · simp_all only [valid]
+    intro m hin w
+    specialize h m hin w
+    grind
```
Comment (chenson2018) [inline Cslib/Logics/Modal/LogicalEquivalence.lean]:
```suggestion
  grind
```

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 6]
```diff
@@ -0,0 +1,149 @@
...
+  trans := by
+    intro φ₁ φ₂ φ₃ h₁ h₂ m hₘ w
+    specialize h₁ m hₘ w
+    specialize h₂ m hₘ w
+    grind
+
+/-- Logical equivalence is a congruence. -/
+instance (S : Set (Model World Atom)) :
+    Congruence (Proposition Atom) (Proposition.Equiv (Atom := Atom) S) where
```
Comment (chenson2018) [inline Cslib/Logics/Modal/LogicalEquivalence.lean]:
```suggestion
instance {World Atom} (S : Set (Model World Atom)) : Congruence (Proposition Atom) (Proposition.Equiv S) where
```

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 7]
```diff
@@ -0,0 +1,149 @@
...
+      specialize ih w
+      grind
+    case diamond c ih =>
+      simp only [Satisfies.iff_iff_iff]
+      apply Iff.intro
+      all_goals
+        intro h
+        rcases h with ⟨w', h⟩
+        specialize ih w'
+        grind
```
Comment (chenson2018) [inline Cslib/Logics/Modal/LogicalEquivalence.lean]: The fill notation is fighting against `grind` here. See how this works:

```suggestion
  elim ctx φ₁ φ₂ heqv m hₘ w := by
    have (Γ : HasContext.Context (Proposition Atom)) (φ) : Γ.fill φ = Γ<[φ] := rfl
    induction ctx generalizing w
    case hole => grind
    case not c ih | andL c ih | andR c ih =>
      specialize ih w
      grind
    case diamond c ih =>
      rw [Satisfies.iff_iff_iff]
      apply Iff.intro
      all_goals
        rintro ⟨w', h⟩
        specialize ih w'
        grind
```

(The first have should be a `grind` lemma somewhere.)

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 8]
```diff
@@ -0,0 +1,149 @@
...
+/-- Logical equivalence for Modal Logic K. That is, no assumptions on models are made. -/
+instance : LogicalEquivalence
+    (Proposition Atom) (Judgement World Atom) Satisfies.Bundled where
+  eqv := Proposition.Equiv Set.univ
+  eqvFillValid {φ₁ φ₂ : Proposition Atom} (heqv : φ₁ ≡[Set.univ] φ₂)
+      (c : HasHContext.Context (Judgement World Atom) (Proposition Atom))
+      (h : ⇓c<[φ₁]) : ⇓c<[φ₂] := by
+    simp only [HasHContext.fill, Satisfies.Context.fill] at ⊢ h
+    specialize heqv c.m
+    grind
```
Comment (chenson2018) [inline Cslib/Logics/Modal/LogicalEquivalence.lean]: We don't usually provide types like this in an instance, right? There's also another notation lemma that needs to be extracted. See how:

```suggestion
  eqvFillValid heqv c h := by
    have (φ : Proposition Atom) : Modal[c.m,c.w ⊨ φ] = c<[φ] := rfl
    specialize heqv c.m
    grind
```
works

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+/-- Logical equivalence is an equivalence relation. -/
+instance {World Atom} (S : Set (Model World Atom)) : IsEquiv (Proposition Atom) (Proposition.Equiv S) := by
+  rw [← equivalence_iff_isEquiv]
+  grind [Equivalence]
+
+/-- Logical equivalence is a congruence. -/
+instance {World Atom} (S : Set (Model World Atom)) :
+    Congruence (Proposition Atom) (Proposition.Equiv S) where
+  elim ctx φ₁ φ₂ heqv m hₘ w := by
+    have (Γ : HasContext.Context (Proposition Atom)) (φ) : Γ.fill φ = Γ<[φ] := rfl
```
Comment (chenson2018) [inline Cslib/Logics/Modal/LogicalEquivalence.lean]: Please extract this line as a lemma.

File: Cslib/Logics/Modal/LogicalEquivalence.lean [hunk 10]
```diff
@@ -0,0 +1,126 @@
...
+instance judgementalContext :
+    HasHContext (Judgement World Atom) (Proposition Atom) :=
+  ⟨Satisfies.Context World Atom, Satisfies.Context.fill⟩
+
+/-- Logical equivalence for Modal Logic K. That is, no assumptions on models are made. -/
+instance : LogicalEquivalence
+    (Proposition Atom) (Judgement World Atom) Satisfies.Bundled where
+  eqv := Proposition.Equiv Set.univ
+  eqvFillValid heqv c h := by
+    have (φ : Proposition Atom) : Modal[c.m,c.w ⊨ φ] = c<[φ] := rfl
```
Comment (chenson2018) [inline Cslib/Logics/Modal/LogicalEquivalence.lean]: Please extract this line as a lemma.

**Review by chenson2018 — APPROVED** [review]
Two comments below about notation lemmas that need to be extracted, but I'm going to go ahead and approve so you're not waiting on me.

**Comment by fmontesi** [comment]
@chenson2018 I've extracted the lemmas, but I do wonder about the direction we state these `_def` lemmas. To make it work, I had to use the `=_` grind annotation. Is that the expected way to do this?
